US04633022
A 2.5 liter shaker reactor was charged with 2,6-di-t-butylphenol (52 g, 0.25 m), formaldehyde (21 g of 37% aq. solution, 0.25 m), triethylamine (30 g, 0.3 m) and methyl alcohol (200 ml). The mixture was heated at 127° C. for 2 hrs. under a nitrogen blanket with agitation. The mixture was hydrogenated at 160° C. in the presence of nickel catalyst (5 g) and 300 psig of H2. Absorption of hydrogen ceased after 15 minutes. The product, after filtering to remove the catalyst, was distilled to recover methyl alcohol, triethylamine and crude DBPC which was distilled at 128° C./6-8 mm Hg to give 51 g (93 mole % yield) of DBPC. Analysis of DBPC by GC was 97% DBPC and 2.8% 2,6-di-t-butylphenol.

reactant | 2,6-di-t-butylphenol | 52 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | formaldehyde | 21 g | C=O | CH2O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
catalyst | nickel | 5 g | [Ni] | Ni
solvent | methyl alcohol | 200 ml | CO | CH4O
product | DBPC | 51 g | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
